US04943574
A mixture of 6.5 parts of 1-[(4-fluoro-3-nitrophenyl)methyl]-1H-imidazole, 6.01 parts of hydrazine monohydrate and 80 parts of ethanol was stirred and refluxed for 5 hours. After cooling, 12 parts of a hydrochloric acid solution 5N were added. The whole was evaporated. The residue was stirred with 30 parts of water and the precipitated product was filtered off and boiled in 40 parts of 2-propanol. 2-Propanol, saturated with hydrogen chloride, was added. The salt was allowed to crystallize at room temperature. It was filtered off and dried, yielding 4.1 parts (54.3%) of 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol monohydrochloride; mp. 207.4° C. (compound 158).

reactant | 1-[(4-fluoro-3-nitrophenyl)methyl]-1H-imidazole | FC1=C(C=C(C=C1)CN1C=NC=C1)[N+](=O)[O-] | C10H8FN3O2
reactant | hydrazine monohydrate | O.NN
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol monohydrochloride | 54.3% | Cl.N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)O)C1 | InChI=1S/C10H9N5O.ClH/c16-15-10-5-8(1-2-9(10)12-13-15)6-14-4-3-11-7-14;/h1-5,7,16H,6H2;1H
